US06498125B2
Preparation of 6-methyl-2-trifluoromethyl pvridin-3-ylcarbonyl chloride
A solution of 0.45 g of 6-methyl-2-trifluoromethylpyridin-3-ylcarboxyi ic acid in 20 ml of dichloromethane is charged initially, 3 drops of dimethylformamid c are added and the mixture is subsequently treated with 1.6 ml of oxalyl chloride. After the intensive evolution of gas has ceased, the mixture is kept at a bath temperature of 40° C. for another 1.5 hours and then evaporated. The crude product (0.56 g) that remains as residue can be directly reacted further. 1H NMR (CDCl3, ppm): 8.20 (1H,d); 7.51 (1H,d); 2.65 (3H, s).

reactant | 6-methyl-2-trifluoromethylpyridin-3-ylcarboxyi ic acid | 0.45 g | CC1=CC=C(C(=N1)C(F)(F)F)C(=O)O | C8H6F3NO2
reactant | oxalyl chloride | 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | dimethylformamid | 3 drops | CN(C=O)C | C3H7NO
product | 6-methyl-2-trifluoromethyl pvridin-3-ylcarbonyl chloride | CC1=CC=C(C(=N1)C(F)(F)F)C(=O)Cl | C8H5ClF3NO
